2114-04-01 07:35:00 Physician Resident Progress Note
Chief Complaint: Found unresponsive
   24 Hour Events:
 INVASIVE VENTILATION - START [**2114-3-31**] 06:53 PM
 PRESEP CATHETER - START [**2114-3-31**] 07:00 PM
   - persistently hypotensive, 2L bolus with short-lived response,
   re-started dopamine 7am
   - failed am RSBI, no spontaneous breaths
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Penicillins
   Unknown;
   Apap (Oral) (Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2114-3-31**] 10:00 PM
   Vancomycin - [**2114-3-31**] 11:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-4-1**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 54 (49 - 57) bpm
   BP: 93/40(53) {79/38(48) - 145/82(106)} mmHg
   RR: 15 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
    CVP: 6 (1 - 11)mmHg
   CO/CI (Fick): (12.5 L/min) / (7.7 L/min/m2)
   SvO2: 84%
   Total In:
                                                                  2,070 mL
                                                                  2,340 mL
   PO:
   TF:
   IVF:
                                                                    770 mL
                                                                  2,340 mL
   Blood products:
   Total out:
                                                                    499 mL
                                                                    115 mL
   Urine:
                                                                    359 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,571 mL
                                                                  2,225 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.31/45/177/23/-3
   Ve: 7 L/min
   PaO2 / FiO2: 443
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic), harsh IV/VI ejection murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   L>R, No(t) Wheezes : ), coarse on vent
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, Cyanosis, Clubbing
   Skin:  Warm, multiple skin tears
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   152 K/uL
   8.1 g/dL
   84 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.7 mEq/L
   35 mg/dL
   114 mEq/L
   144 mEq/L
   25.9 %
   5.4 K/uL
        [image002.jpg]
                             [**2114-3-31**]  05:41 PM
                             [**2114-3-31**]  07:30 PM
                             [**2114-3-31**]  07:34 PM
                             [**2114-4-1**]  04:29 AM
                             [**2114-4-1**]  05:54 AM
   WBC
   8.7
   5.4
   Hct
   29
   22
   30.3
   25.9
   Plt
   204
   152
   Cr
   1.2
   1.0
   TropT
   0.20
   0.16
   TCO2
   24
   Glucose
   177
   84
   Other labs: PT / PTT / INR:13.0/30.4/1.1, CK / CKMB /
   Troponin-T:61/5/0.16, ALT / AST:13/27, Alk Phos / T Bili:73/0.2, Lactic
   Acid:0.7 mmol/L, Albumin:2.6 g/dL, LDH:214 IU/L, Ca++:6.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   A/P: 80 yr old female hx of severe aortic stenosis, CAD presenting
   unresponsive with hypercapnea and hypotension.
   .
   #respiratory distress: Found unresponsive vs lethargic at NS, with O2
   sat to reported 59%. Intubation in the setting of elevated C02 to 61.
   respiratory acidosis. Unclear setting of infection, pneumonia.?LLL
   infiltrate, fever to 101, URI symptoms prior. Possible hypercapnea in
   the setting of oversedation with narcotics. Failure in the setting of
   AS also possible.
   -Treat possible pulm source with vanc given in nursing home. Cefepime
   to cover broader gram negative and pseudomonal coverage.
   -blood cx, sputum cx
   - urine legionella negaitve, can d/c levo
   -empiric tamiflu until DFA returns
   -wean to PS and hopeful extubation tomorrow
   -hold home lasix in setting of hypotension, BNP > 44,000, evidence of
   pulmonary edema on CXR, ventilated
   -CVP assess fluid status
 will give LR boluses for CVP 8-12
   .
   #Hypotension: Concern for septic shock vs cardiogenic shock. SV02
   initial greater than 70, cool extremities, cardiac hx.
   -SVO2 > 80%, cardiogenic less likely
   -IV fluids as pre load dependent though weary of overload in the
   setting of likely diastolic dysfunction.
   -Monitor CVP, goal [**9-4**], bolus with LR
   -Antibiotics for possible sepsis as above
   -trend CE
 trending down
   -TTE in AM
   -check a cortisol level
   -HCT down, likley dilutional, re-check, if continues to trend down,
   transfuse
   -can add dopamine if pressor needed
   .
   #altered mental status: Found unresponsive with hypercapnea. consider
   related to underlying infection, possible pulmonary source. Also
   consider narcotics overdose with lethargy and C02 retention. Arrythmia,
   symptomatic bradycardia also should be considered. Difficult to assess
   currently as pt intubated.
   -medaz/fentanyl bolus as needed for pain/sedation
   -hold oxycontin
   -on ventilator
   -treat infection
   -TSH normal
   -Head CT
   .
   #) Non-gap acidosis
 likely [**2-24**] aggressive volume resuscitation with
   NS
   - use LR for future fluid boluses
   #) UTI
 dirty urine in ED, urinary infection could also be
   contributing to mental status changes.  On broad antibiotic coverage
   - f/u urine cx
   #cardiac:
   ##ischemia- hx of CAD, angina in the past. Trop leak to 0.26. Consider
   in the setting or worsening renal function and stress from hypotension,
   ?sepsis.
   -trend CE
   -monitor on tele
   -TTE in AM
   -ASA
   ##Pump:[**2111**] EF 65%. Pt with severe AS. Unclear whether diastolic
   dysfunction associated. Consider possible pulmonary edema in the
   setting of AS.
   -Hold diuresis, as consider preload dependent and hypotension leading
   to decreased preload and decreased cardiac output.
   -IV fluids to maintain MAP>65. Dopamine as needed to maintain MAP.
   -BNP [**Numeric Identifier 1478**]
   -TTE
   ##Rhythm: sinus bradycardia. Consider brady in the setting of atenolol
   at home with renal failure. Likely elderly with conduction disease
   -Hold BB
   -monitor on tele
   -atropine as needed
   -Will use dopamine for pressor if needed as will increase HR and help
   with bradycardia
   -covering PCP to fax previous DC summary, TTE report
   .
   #Thyroid disease: Unclear with surgery in the past
   -TSH normal
   .
   #Hypertension: Currently hypotensive.
   -Hold BB
   -Hold imdur
   .
   #RA: hold narcotics in setting of unresponsive episode.
   -fent as needed
   .
   #acute renal failure: Unclear baseline. Hx of CRI ~1.1-1.5 in the past.
   1.5 on admission, likely pre-renal, improved to 1.0 with aggressive
   fluid resuscititation.
   -gentle hydration
   .
   FEN: nutrition consult, replete lytes PRN
   PPX: SC Heparin, bowel regimen
   Code: full
   Comm: [**Name (NI) 1470**] [**Name (NI) 1471**] [**Telephone/Fax (1) 1473**]
   Access: PIV, Right IJ
   Dispo: pending further workup
   .
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2114-3-31**] 07:00 PM
   18 Gauge - [**2114-3-31**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2114-04-01 09:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yr old RA, severe AS + CAD presented with hypercarbia/hypoxemic resp
   failure NOS. Hypotensive and hypoxemic in ED. Intubated. Recently
   treated for resp infection with Biaxin prior to admission.
   Yesterday, intubated without propofol, transient pressor requirement.
   Started Cefepime/LVF. Received 2L in [**Last Name (LF) **], [**First Name3 (LF) **] additional 1+L in ICU.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2114-3-31**] 06:53 PM
 PRESEP CATHETER - START [**2114-3-31**] 07:00 PM
   Vitals reviewed.
   History obtained from Medical records
   Patient unable to provide history: intubated
   Allergies:
   Penicillins
   Unknown;
   Apap (Oral) (Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2114-3-31**] 10:00 PM
   Vancomycin - [**2114-3-31**] 11:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-4-1**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 54 (49 - 57) bpm
   BP: 86/40(52) {79/38(48) - 145/82(106)} mmHg
   RR: 16 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
   CVP: 6 (1 - 11)mmHg
   CO/CI (Fick): (11 L/min) / (6.8 L/min/m2)
   SvO2: 83%
                                Total In:
                                                                  2,070 mL
                                                                  2,515 mL
   PO:
                                TF:
   IVF:
                                                                    770 mL
                                                                  2,515 mL
   Blood products:
   Total out:
                                                                    499 mL
                                                                    115 mL
   Urine:
                                                                    359 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,571 mL
                                                                  2,400 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.31/45/177/23/-3 --7.42/42/143 on same settings
   Ve: 7 L/min
   PaO2 / FiO2: 443
   Physical Examination
   General Appearance: Thin, Alert, communicative
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S2: Distant), (Murmur: Systolic), murmur radiates to
   carotids
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Extremities: Muscle wasting, superficial ulcer left foot
   Skin:  Not assessed, few skin tears on LE
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   152 K/uL
   84 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.7 mEq/L
   35 mg/dL
   114 mEq/L
   144 mEq/L
   25.9 %
   5.4 K/uL
        [image002.jpg]
                             [**2114-3-31**]  05:41 PM
                             [**2114-3-31**]  07:30 PM
                             [**2114-3-31**]  07:34 PM
                             [**2114-4-1**]  04:29 AM
                             [**2114-4-1**]  05:54 AM
   WBC
   8.7
   5.4
   Hct
   29
   22
   30.3
   25.9
   Plt
   204
   152
   Cr
   1.2
   1.0
   TropT
   0.20
   0.16
   TCO2
   24
   Glucose
   177
   84
   Other labs: PT / PTT / INR:13.0/30.4/1.1, CK / CKMB /
   Troponin-T:61/5/0.16, ALT / AST:13/27, Alk Phos / T Bili:73/0.2, Lactic
   Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:214 IU/L, Ca++:6.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: BUN 39, Creat 1.5 on admission
   Urine Legionella negative
   Troponins trending down.
   U/A - trace leuks, many bact, no eos
   Sputum green- gram stain pending
   BNP - [**Numeric Identifier 1477**]
   TSH within normal
   Assessment and Plan
   Assessment and Plan
   80 year old woman with severe AS and CAD who presents with hypoxemic
   and hypercarbic respiratory failure.  She appears to have a LLL
   infiltrate (slightly worse since admission with hydration) and it
   sounds like she had some respiratory symptoms over the last few days.
   She is certainly at risk for CHF as well, and her extremities are cool,
   so this may be part of the picture as well. Urosepsis clearly on the
   differential.
   1. Respiratory failure - will cover for nosocomial pneumonia with
   cefepime/vanco. Started on LVF but urine Leg negative so will d/c. Swab
   for flu pending.  Blood/sputum cultures to follow up on.  Will switch
   her over to PSV, tolerating [**12-28**] but having periods of apnea.
   Hypercapnia may be related to oxycontin.
   2. Hypotension, question of sepsis - urosepsis vs LLL pneumonia,
   unclear what this was related to, but suspect sepsis. Alternatively dry
   in setting of severe AS. Required fluids for hypotension. Continue to
   hydrate with PRN LR boluses. No need for pressors at this time.  Will
   challenge with volume if she drops her pressure again.  Would use
   dopamine if she remains hypotensive with bradycardia.  Will repeat ECHO
   in the am.  Hold atenolol with bradycardia. Hx of RA, question of
   previous steroids. Would consider adrenal insufficiency.
   3. Bradycardia - she is remarkably bradycardic.  Enzymes (trop)
   trending down but doubt cardiogenic failure with good central sat,
   though obviously has bad AS.
   4. CAD - reportedly worked up for CABG + AVR but felt to be poor
   surgical candidate.
   5. Thyroid disease - will check TSH (despite critical illness) with
   hypothermia.
   6. RA
 hold oxycontin for now, will use fentanyl as needed.
   7. Mental status - found unresponsive. CT head to be done today.
   8. Acute renal failure - improving, likely prerenal
   ICU Care
   Nutrition:
   Glycemic Control:  NPO but will start tube feeds
   Lines:  right IJ line [**2114-3-31**]
   Presep Catheter - [**2114-3-31**] 07:00 PM
   18 Gauge - [**2114-3-31**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-04-02 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - having increased yellow sputum secretion from ETT
   - pt oxygenating well on minimal vent settings (plan to extubate in am)
   - non gap acidosis likely [**2-24**] to NS resussitation
   Allergies:
   Penicillins
   Unknown;
   Apap (Oral) (Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-4-1**] 08:00 PM
   Cefipime - [**2114-4-1**] 09:37 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-4-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-4-2**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 62 (51 - 73) bpm
   BP: 132/50(68) {97/41(48) - 158/71(102)} mmHg
   RR: 19 (11 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 6 (6 - 9)mmHg
   CO/CI (Fick): (8 L/min) / (4.9 L/min/m2)
   SvO2: 80%
                                Total In:
                                                                  4,835 mL
                                                                     78 mL
   PO:
                                TF:
   IVF:
                                                                  4,665 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,055 mL
                                                                    570 mL
   Urine:
                                                                  1,055 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,780 mL
                                                                   -492 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 331 (99 - 378) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 11 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.31/45/154/22/-3
   Ve: 7.8 L/min
   PaO2 / FiO2: 385
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (Murmur: Systolic), IV/VI systolic blowing murmur heard
   best at apex
   II/VI harsh systolic murmur at USB and radiation to clavicles
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   190 K/uL
   9.1 g/dL
   78 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.1 mEq/L
   28 mg/dL
   116 mEq/L
   141 mEq/L
   29.2 %
   6.5 K/uL
        [image002.jpg]
                             [**2114-3-31**]  05:41 PM
                             [**2114-3-31**]  07:30 PM
                             [**2114-3-31**]  07:34 PM
                             [**2114-4-1**]  04:29 AM
                             [**2114-4-1**]  05:54 AM
                             [**2114-4-1**]  10:20 AM
                             [**2114-4-1**]  03:39 PM
                             [**2114-4-1**]  11:45 PM
   WBC
   8.7
   5.4
   6.9
   6.5
   Hct
   29
   22
   30.3
   25.9
   30.2
   29.2
   Plt
   [**Telephone/Fax (3) 1501**]90
   Cr
   1.2
   1.0
   1.1
   1.0
   TropT
   0.20
   0.16
   TCO2
   24
   24
   Glucose
   177
   84
   83
   78
   Other labs: PT / PTT / INR:13.0/30.4/1.1, CK / CKMB /
   Troponin-T:61/5/0.16, ALT / AST:13/27, Alk Phos / T Bili:73/0.2, Lactic
   Acid:0.7 mmol/L, Albumin:2.6 g/dL, LDH:214 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR:  The lines and tubes are stable.  There is a persistent
   left retrocardiac
   opacity and some prominence of the bronchovascular markings.  There is
   also a
   focal area of consolidation within the mid lung zone, unchanged.
   CT of Head pending
   Microbiology: Color Yellow
   Appear Clear
   SpecGr 1.014
   pH   5.0
   Urobil Neg
   Bili Neg
   Leuk Neg
   Bld Neg
   Nitr Neg
   Prot 30
   Glu Neg
   Ket Neg
   RBC 1
   WBC 2
   Bact Few
   Yeast None
   Epi 2
   Other Urine Counts
   TransE: <1
   Mucous: Rare
   Assessment and Plan
   80 yr old female hx of severe aortic stenosis, CAD presenting
   unresponsive with hypercapnea and hypotension.
   .
   #respiratory distress: Found unresponsive vs lethargic at NS, with O2
   sat to reported 59%. Intubation in the setting of elevated C02 to 61.
   respiratory acidosis. Unclear setting of infection, pneumonia.?LLL
   infiltrate, fever to 101, URI symptoms prior. Possible hypercapnea in
   the setting of oversedation with narcotics. Failure in the setting of
   AS also possible.
   -Treat possible pulm source with vanc given in nursing home. Cefepime
   to cover broader gram negative and pseudomonal coverage. Discussed with
   attg will maintain on levo for atypicals. reported sensitivity to
   penicillin, administered cefepime in ED w/o complication. Will clarify.
   -blood cx, sputum cx
   -Influenza, urine legionella
   -empiric tamiflu until DFA returns
   -wean to PS and hopeful extubation tomorrow
   -hold home lasix, but will check BNP, CVP assess fluid status
   .
   #Hypotension: Concern for septic shock vs cardiogenic shock. SV02
   initial greater than 70, cool extremities, cardiac hx. Source of
   infection includes lung, and less likely though still very plausible in
   elderly female with cystitis altered mental status is urosepsis
   -check SVO2
   -IV fluids as pre load dependent. Of course concern given severe AS and
   pulm edema, though appears euvolemic to dry on exam with elevated
   creatinine.
   -Monitor CVP goal [**9-4**]
   -Antibiotics for presumed sepsis as above
   -trend CE
   -TTE in AM
   .
   #altered mental status: Found unresponsive with hypercapnea. consider
   related to underlying infection, possible pulmonary source. Also
   consider narcotics overdose with lethargy and C02 retention. Arrythmia,
   symptomatic bradycardia also should be considered. Difficult to assess
   currently as pt intubated.
   -medaz/fentanyl bolus as needed for pain/sedation
   -hold oxycontin
   -on ventilator
   -treat infection
   -check TSH
   -consider CT head though no known head trauma, no clear evidence of
   bleed.
   .
   #cardiac:
   ##ischemia- hx of CAD, angina in the past. Trop leak to 0.26. Consider
   in the setting or worsening renal function and stress from hypotension,
   ?sepsis.
   -trend CE
   -monitor on tele
   -EKG in AM
   -TTE in AM
   -ASA
   ##Pump:[**2111**] EF 65%. Pt with severe AS. Unclear whether diastolic
   dysfunction associated. Consider possible pulmonary edema in the
   setting of AS.
   -Hold diuresis, as consider preload dependent and hypotension leading
   to decreased preload and decreased cardiac output.
   -IV fluids to maintain MAP>65. Dopamine as needed to maintain MAP.
   -check BNP
   ##Rhythm: sinus bradycardia. Consider brady in the setting of atenolol
   at home with renal failure. Likely elderly with conduction disease
   -Hold BB
   -monitor on tele
   -atropine as needed
   -Will use dopamine for pressor if needed as will increase HR and help
   with bradycardia
   -covering PCP to fax previous DC summary, TTE report
   .
   #Thyroid disease: Unclear with surgery in the past
   -Check TSH in the setting of temp, and altered mental status
   .
   #Hypertension: Currently hypotensive.
   -Hold BB
   -Hold imdur
   .
   #RA: hold narcotics in setting of unresponsive episode.
   -fent as needed
   .
   #acute renal failure: Unclear baseline. Hx of CRI ~1.1-1.5 in the past.
   Currently 1.5. Consider pre renal from volume depletion.
   -gentle hydration
   -send urine for casts, eos
   -urine osms of does not respond in AM
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2114-3-31**] 07:00 PM
   18 Gauge - [**2114-3-31**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-04-02 13:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 year old woman with severe AS and CAD who presents with hypoxemic
   and hypercarbic respiratory failure.  She appears to have a LLL
   infiltrate (slightly worse since admission with hydration) and it
   sounds like she had some respiratory symptoms over the last few days.
   She is certainly at risk for CHF as well, and her extremities are [** **],
   so this may be part of the picture as well. Urosepsis clearly on the
   differential.
   24 Hour Events:
   Secretions from ETT.
   Positive 3.7 liters / 24hrs
   Otherwise uneventful.
   Patient unable to provide history: intubated
   Allergies:
   Penicillins
   Unknown;
   Apap (Oral) (Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-4-1**] 08:00 PM
   Cefipime - [**2114-4-2**] 10:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-4-2**] 01:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.3
   HR: 74 (55 - 77) bpm
   BP: 154/61(84) {101/41(55) - 158/71(92)} mmHg
   RR: 18 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
   CVP: 6 (6 - 9)mmHg
   CO/CI (Fick): (8 L/min) / (4.9 L/min/m2)
   SvO2: 80%
                               Total In:
                                                                  4,835 mL
                                                                    252 mL
   PO:
                               TF:
   IVF:
                                                                  4,665 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  1,055 mL
                                                                    935 mL
   Urine:
                                                                  1,055 mL
                                                                    935 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,780 mL
                                                                   -683 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (327 - 378) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.31/45/154/23/-3 on PSV
   Ve: 7.4 L/min
   PaO2 / FiO2: 385
   Physical Examination
   General Appearance: alert, responding appropriately
   Eyes / Conjunctiva: No(t) Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: No(t) Normal), (Murmur: Systolic), 2/6 SEM rad to
   carotids
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   186 K/uL
   72 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.3 mEq/L
   24 mg/dL
   113 mEq/L
   140 mEq/L
   30.4 %
   7.5 K/uL
        [image002.jpg]
                             [**2114-3-31**]  05:41 PM
                             [**2114-3-31**]  07:30 PM
                             [**2114-3-31**]  07:34 PM
                             [**2114-4-1**]  04:29 AM
                             [**2114-4-1**]  05:54 AM
                             [**2114-4-1**]  10:20 AM
                             [**2114-4-1**]  03:39 PM
                             [**2114-4-1**]  11:45 PM
                             [**2114-4-2**]  07:12 AM
   WBC
   8.7
   5.4
   6.9
   6.5
   7.5
   Hct
   29
   22
   30.3
   25.9
   30.2
   29.2
   30.4
   Plt
   [**Telephone/Fax (3) 1501**]90
   186
   Cr
   1.2
   1.0
   1.1
   1.0
   1.1
   TropT
   0.20
   0.16
   TCO2
   24
   24
   Glucose
   177
   84
   83
   78
   72
   Other labs: PT / PTT / INR:12.6/35.0/1.1, CK / CKMB /
   Troponin-T:61/5/0.16, ALT / AST:13/27, Alk Phos / T Bili:73/0.2, Lactic
   Acid:0.7 mmol/L, Albumin:2.6 g/dL, LDH:214 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Imaging: CT head - report pending
   Microbiology: Urine: >100K GP ? alpha strep vs lactobacillus
   Sputum - CNS sparse
   Assessment and Plan
   80 year old woman with severe AS and CAD who presents with hypoxemic
   and hypercarbic respiratory failure.   LLL infiltrate (slightly worse
   since admission with hydration) and it sounds like she had some
   respiratory symptoms over the last few days.  She is certainly at risk
   for CHF as well, and her extremities are [**Last Name (LF) **], [**First Name3 (LF) **] this may be part of
   the picture as well. Urosepsis clearly on the differential and now with
   positive urine culture.
   1. Respiratory failure - will cover for nosocomial pneumonia with
   cefepime/vanco. Started on LVF but urine Leg negative so will d/c. Swab
   for flu pending.  Blood/sputum cultures to follow up on.  Tolerating
   PSV 5/5. Hypercapnia may have been related to oxycontin.
   2. Hypotension, question of sepsis - urosepsis vs LLL pneumonia,
   unclear but suspect sepsis which is now improving. Alternatively dry in
   setting of severe AS, now volume resuscitated. Will repeat TTE -
   pending. Hx of RA, question of previous steroids. Would consider
   adrenal insufficiency.
   3. Bradycardia - Improved, enzymes (trop) trending down, but doubt ACS.
   4. CAD - reportedly worked up for CABG + AVR but felt to be poor
   surgical candidate. Will need to discuss this with patient for more
   details. [**Month (only) 60**] need to be reevaluated.
   5. RA
 oxycontin held, will restart small dose, looks comfortable
   6. Mental status - alert, responds to commands
   8. Acute renal failure - improving, likely prerenal
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2114-3-31**] 07:00 PM
   18 Gauge - [**2114-3-31**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2114-04-03 07:42:00 Physician Resident Progress Note
Chief Complaint: Unresponsive
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2114-4-2**] 11:25 AM
 INVASIVE VENTILATION - STOP [**2114-4-2**] 02:40 PM
   -- extubated w/o difficulty
   -- TTE showed sever AS w/ [**Location (un) **] of 0.5.  Was discussed w/ PCP, [**Name10 (NameIs) **]
   has long refused valve surgery.
   -- CT of head negative
   -- > 2L negative to lasix
   Allergies:
   Penicillins
   Unknown;
   Apap (Oral) (Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-4-2**] 07:57 PM
   Cefipime - [**2114-4-2**] 10:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2114-4-2**] 01:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, non-productive
   Genitourinary: No(t) Dysuria
   Flowsheet Data as of  [**2114-4-3**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 64 (58 - 74) bpm
   BP: 178/78(105) {119/41(62) - 178/78(105)} mmHg
   RR: 19 (17 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 10 (5 - 12)mmHg
   Total In:
                                                                    906 mL
                                                                     76 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                    591 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  3,275 mL
                                                                    480 mL
   Urine:
                                                                  3,275 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,369 mL
                                                                   -404 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (350 - 350) mL
   PS : 7 cmH2O
   RR (Spontaneous): 21
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///24/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic), IV/VI SEM
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : L>R, Diminished:
   righ-side, Absent : right, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Skin:  Warm, Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   193 K/uL
   9.5 g/dL
   70 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.6 mEq/L
   20 mg/dL
   108 mEq/L
   138 mEq/L
   29.7 %
   8.5 K/uL
        [image002.jpg]
                             [**2114-3-31**]  05:41 PM
                             [**2114-3-31**]  07:30 PM
                             [**2114-3-31**]  07:34 PM
                             [**2114-4-1**]  04:29 AM
                             [**2114-4-1**]  05:54 AM
                             [**2114-4-1**]  10:20 AM
                             [**2114-4-1**]  03:39 PM
                             [**2114-4-1**]  11:45 PM
                             [**2114-4-2**]  07:12 AM
                             [**2114-4-3**]  03:56 AM
   WBC
   8.7
   5.4
   6.9
   6.5
   7.5
   8.5
   Hct
   29
   22
   30.3
   25.9
   30.2
   29.2
   30.4
   29.7
   Plt
   [**Telephone/Fax (3) 1501**]90
   186
   193
   Cr
   1.2
   1.0
   1.1
   1.0
   1.1
   1.0
   TropT
   0.20
   0.16
   TCO2
   24
   24
   Glucose
   177
   84
   83
   78
   72
   70
   Other labs: PT / PTT / INR:12.6/35.0/1.1, CK / CKMB /
   Troponin-T:61/5/0.16, ALT / AST:13/27, Alk Phos / T Bili:73/0.2, Lactic
   Acid:0.7 mmol/L, Albumin:2.6 g/dL, LDH:214 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   80 yr old female hx of severe aortic stenosis, CAD presenting
   unresponsive with hypercapnea and hypotension.
   .
   #respiratory distress: Found unresponsive vs lethargic at NS, with O2
   sat to reported 59%. Intubation in the setting of elevated C02 to 61.
   respiratory acidosis. Unclear setting of infection, pneumonia.?LLL
   infiltrate, fever to 101, URI symptoms prior. Possible hypercapnea in
   the setting of oversedation with narcotics. Failure in the setting of
   AS also possible.
   -Treat possible pulm source with vanc given in nursing home. Cefepime
   to cover broader gram negative and pseudomonal coverage. Discussed with
   attg will maintain on levo for atypicals. reported sensitivity to
   penicillin, administered cefepime in ED w/o complication. Will clarify.
   -blood cx, sputum cx
   -Influenza, urine legionella
   -DFA negative, d/c tamiflu
   -doing well on  PS and likely extubation today
   -restart home lasix given eviden of fluid overload on today
s exam in
   setting of aggressive hydration
   .
   #Hypotension: Concern for septic shock vs cardiogenic shock. SV02
   initial greater than 70, cool extremities, cardiac hx. Source of
   infection includes lung, and less likely though still very plausible in
   elderly female with cystitis altered mental status is urosepsis
   -Monitor CVP goal [**9-4**]
   -Antibiotics for presumed sepsis as above
   -ROMI
   -TTE in AM
   .
   #altered mental status: Found unresponsive with hypercapnea. consider
   related to underlying infection, possible pulmonary source. Also
   consider narcotics overdose with lethargy and C02 retention. Arrythmia,
   symptomatic bradycardia also should be considered. Difficult to assess
   currently as pt intubated.
   -hold oxycontin
   -on ventilator
   -treat infection
   -TSH normal
   -normal NCHCT
   .
   #cardiac:
   ##ischemia- hx of CAD, angina in the past. Trop leak to 0.26. Consider
   in the setting or worsening renal function and stress from hypotension,
   ?sepsis.
   -trend CE
   -monitor on tele
   -EKG w/o evidence of ischemia
   -TTE in AM
   -ASA
   ##Pump:[**2111**] EF 65%. Pt with severe AS. Unclear whether diastolic
   dysfunction associated. Consider possible pulmonary edema in the
   setting of AS.
   -          fluid overloaded on CXR, exam, will diurese prior to
   extuvation
   -
   ##Rhythm: sinus bradycardia. Consider brady in the setting of atenolol
   at home with renal failure. Likely elderly with conduction disease
   -Hold BB
   -monitor on tele
   -covering PCP to fax previous DC summary, TTE report and will discuss
   possible AS surgery if needed
   .
   #Thyroid disease: Unclear with surgery in the past
   -normal TST
   .
   #Hypertension: Currently hypotensive.
   -will restart BB and imdur today
   .
   #RA: hold narcotics in setting of unresponsive episode.
   -fent as needed
   .
   #acute renal failure: Unclear baseline. Hx of CRI ~1.1-1.5 in the past.
   Currently 1.5. Consider pre renal from volume depletion.
   -improved w/ IVF, so most likely prerenal in etiology
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2114-3-31**] 07:00 PM
   18 Gauge - [**2114-3-31**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2114-3-31**] 07:00 PM
   18 Gauge - [**2114-3-31**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:

2114-04-03 11:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2114-4-2**] 11:25 AM - [**Location (un) **] 0.5. Pt refused
   surgery.
 INVASIVE VENTILATION - STOP [**2114-4-2**] 02:40 PM - extubated without
   complication
   Allergies:
   Penicillins
   Unknown;
   Apap (Oral) (Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-4-2**] 07:57 PM
   Cefipime - [**2114-4-3**] 10:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2114-4-2**] 01:14 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-4-3**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35
C (95
   HR: 65 (58 - 74) bpm
   BP: 154/65(88) {119/41(62) - 187/78(105)} mmHg
   RR: 20 (17 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
   CVP: 8 (5 - 12)mmHg
   Total In:
                                                                    906 mL
                                                                    282 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    591 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  3,275 mL
                                                                    660 mL
   Urine:
                                                                  3,275 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,369 mL
                                                                   -378 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (350 - 350) mL
   PS : 7 cmH2O
   RR (Spontaneous): 21
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///24/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Thin, No(t) Anxious
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, (Murmur:
   Systolic), 2/6 SEM radiates to carotids
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : right base)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   193 K/uL
   70 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.6 mEq/L
   20 mg/dL
   108 mEq/L
   138 mEq/L
   29.7 %
   8.5 K/uL
        [image002.jpg]
                             [**2114-3-31**]  05:41 PM
                             [**2114-3-31**]  07:30 PM
                             [**2114-3-31**]  07:34 PM
                             [**2114-4-1**]  04:29 AM
                             [**2114-4-1**]  05:54 AM
                             [**2114-4-1**]  10:20 AM
                             [**2114-4-1**]  03:39 PM
                             [**2114-4-1**]  11:45 PM
                             [**2114-4-2**]  07:12 AM
                             [**2114-4-3**]  03:56 AM
   WBC
   8.7
   5.4
   6.9
   6.5
   7.5
   8.5
   Hct
   29
   22
   30.3
   25.9
   30.2
   29.2
   30.4
   29.7
   Plt
   [**Telephone/Fax (3) 1501**]90
   186
   193
   Cr
   1.2
   1.0
   1.1
   1.0
   1.1
   1.0
   TropT
   0.20
   0.16
   TCO2
   24
   24
   Glucose
   177
   84
   83
   78
   72
   70
   Other labs: PT / PTT / INR:12.6/35.0/1.1, CK / CKMB /
   Troponin-T:61/5/0.16, ALT / AST:13/27, Alk Phos / T Bili:73/0.2, Lactic
   Acid:0.7 mmol/L, Albumin:2.6 g/dL, LDH:214 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Microbiology: Sputum - MRSA
   Urine - contaminant on culture
   Assessment and Plan
   80 year old woman with severe AS and CAD who presents with hypoxemic
   and hypercarbic respiratory failure.   LLL infiltrate (slightly worse
   since admission with hydration) and it sounds like she had some
   respiratory symptoms over the last few days.  She is certainly at risk
   for CHF as well, and her extremities are [**Last Name (LF) **], [**First Name3 (LF) **] this may be part of
   the picture as well. Urosepsis clearly on the differential and now with
   positive urine culture.
   1. Respiratory failure / ID issues - extubated without complication.
   Covered for nosocomial pneumonia with cefepime/vanco. Started on LVF
   but urine Leg negative so will d/c. Sputum positive for MRSA, unclear
   if colonized or cause of pna.  Hypercapnia may have been related to
   oxycontin. Will complete 7 d course of gram neg coverage and vanco
   2. Hypotension - resolved, question of sepsis - likely LLL pneumonia.
   Alternatively was dry in setting of severe AS, now volume resuscitated.
   TTE repeated. Hx of RA, question of previous steroids. Would consider
   adrenal insufficiency.
   3. Bradycardia - Improved, enzymes (trop) trending down, no evidence
   for ACS.
   4. CAD - reportedly worked up for CABG + AVR but felt to be poor
   surgical candidate. Mrs [**Known lastname 1519**] confirms that she refused surgery and
   does not wish to change this.
   5. RA
 oxycontin held, will restart small dose, looks comfortable
   6. Mental status - alert, responds to commands
   7. Acute renal failure - improving, likely prerenal
   Stable for floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2114-3-31**] 07:00 PM
   18 Gauge - [**2114-3-31**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2114-04-04 07:24:00 Physician Resident Progress Note
Chief Complaint: found unresponsive
   24 Hour Events:
 CALLED OUT
   - MRSA in sputum
   - switched to ceftriaxone for duration of 7 day course
   - restarted home lasix
   Allergies:
   Penicillins
   Unknown;
   Apap (Oral) (Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-4-2**] 07:57 PM
   Cefipime - [**2114-4-3**] 10:00 AM
   Ceftriaxone - [**2114-4-3**] 10:15 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-4-4**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 64 (58 - 73) bpm
   BP: 144/106(117) {111/37(56) - 187/106(117)} mmHg
   RR: 15 (15 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 8 (8 - 8)mmHg
   Total In:
                                                                    557 mL
                                                                    173 mL
   PO:
                                                                    320 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    237 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    470 mL
   Urine:
                                                                  1,610 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,053 mL
                                                                   -297 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic), IV/VI harsh SEM
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : L base, No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Skin:  Warm, Rash: , some skin breakdown on [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 1528**]: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   215 K/uL
   10.1 g/dL
   140 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.5 mEq/L
   20 mg/dL
   108 mEq/L
   138 mEq/L
   31.8 %
   8.0 K/uL
        [image002.jpg]
                             [**2114-3-31**]  07:30 PM
                             [**2114-3-31**]  07:34 PM
                             [**2114-4-1**]  04:29 AM
                             [**2114-4-1**]  05:54 AM
                             [**2114-4-1**]  10:20 AM
                             [**2114-4-1**]  03:39 PM
                             [**2114-4-1**]  11:45 PM
                             [**2114-4-2**]  07:12 AM
                             [**2114-4-3**]  03:56 AM
                             [**2114-4-4**]  03:18 AM
   WBC
   8.7
   5.4
   6.9
   6.5
   7.5
   8.5
   8.0
   Hct
   22
   30.3
   25.9
   30.2
   29.2
   30.4
   29.7
   31.8
   Plt
   [**Telephone/Fax (3) 1501**]90
   186
   193
   215
   Cr
   1.2
   1.0
   1.1
   1.0
   1.1
   1.0
   1.0
   TropT
   0.20
   0.16
   TCO2
   24
   24
   Glucose
   177
   84
   83
   78
   72
   70
   140
   Other labs: PT / PTT / INR:12.3/48.4/1.0, CK / CKMB /
   Troponin-T:61/5/0.16, ALT / AST:13/27, Alk Phos / T Bili:73/0.2, Lactic
   Acid:0.7 mmol/L, Albumin:2.6 g/dL, LDH:214 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   80 yr old female hx of severe aortic stenosis, CAD presenting
   unresponsive with hypercapnea and hypotension.
   #respiratory distress: Found unresponsive vs lethargic at NS, with O2
   sat to reported 59%. Intubation in the setting of elevated C02 to 61.
   respiratory acidosis. Unclear setting of infection, pneumonia.?LLL
   infiltrate, fever to 101, URI symptoms prior. Possible hypercapnea in
   the setting of oversedation with narcotics. Failure in the setting of
   AS also possible.   Sputum culture grew out MRSA.
   - cont vanc, switch cefepime to ceftriaxone to complete a 7 day course
   - restart home lasix given evidence of fluid overload on today
s exam
   in setting of aggressive hydration
   - PICC for antibiotics
   .
   #Hypotension: Concern for septic shock vs cardiogenic shock. SV02
   initial greater than 70, cool extremities, cardiac hx. Source of
   infection includes lung, and less likely though still very plausible in
   elderly female with cystitis altered mental status is urosepsis.  Now
   resolved.
   #altered mental status: Found unresponsive with hypercapnea. consider
   related to underlying infection, possible pulmonary source. Also
   consider narcotics overdose with lethargy and C02 retention. Arrythmia,
   symptomatic bradycardia also should be considered.
   - oxycontin started at
 home regimen
   - cont antibx for treatment of infection
   -TSH normal
   -normal NCHCT
   #cardiac:
   ##ischemia- hx of CAD, angina in the past. Trop leak to 0.26. Consider
   in the setting or worsening renal function and stress from hypotension,
   ?sepsis.
   -monitor on tele
   -EKG w/o evidence of ischemia
   -ASA
   ##Pump:[**2111**] EF 65%. Pt with severe AS. [**Location (un) **].5.  Per pt
s PCP, [**Name10 (NameIs) **] not
   interested in intervention, so no intervention at this time.
   #Thyroid disease: Unclear with surgery in the past
   -normal TST
   #Hypertension: Initially hypotensive, now hypertensive, could be due to
   an element of elevated volume [**2-24**] aggressive fluid resuscitation, but
   likely just related to holding home meds
   - restarted BB and imdur
   #RA: restarted oxycontin but at
 home dose [**2-24**] to presentation with
   altered mental status
   - pt does not complain of pain
   #acute renal failure: resolved
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2114-3-31**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility

2114-04-04 10:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Day [**5-30**] vanco
   day 2 ceftriaxone
   uneventful night, no complaints, no sob, no chest pain.
   Allergies:
   Penicillins
   Unknown;
   Apap (Oral) (Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-4-2**] 07:57 PM
   Cefipime - [**2114-4-3**] 10:00 AM
   Ceftriaxone - [**2114-4-3**] 10:15 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-4-4**] 08:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-4-4**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 71 (58 - 73) bpm
   BP: 192/82(109) {111/37(56) - 192/106(117)} mmHg
   RR: 17 (15 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                    557 mL
                                                                    200 mL
   PO:
                                                                    320 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    237 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    470 mL
   Urine:
                                                                  1,610 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,053 mL
                                                                   -271 mL
   Respiratory support
   O2 Delivery Device: None, Aerosol-[**Year (4 digits) **]
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), 3/6 SEM
   radiating to carotids
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : left base)
   Abdominal: Soft, Non-tender, No(t) Distended
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   215 K/uL
   140 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.5 mEq/L
   20 mg/dL
   108 mEq/L
   138 mEq/L
   31.8 %
   8.0 K/uL
        [image002.jpg]
                             [**2114-3-31**]  07:30 PM
                             [**2114-3-31**]  07:34 PM
                             [**2114-4-1**]  04:29 AM
                             [**2114-4-1**]  05:54 AM
                             [**2114-4-1**]  10:20 AM
                             [**2114-4-1**]  03:39 PM
                             [**2114-4-1**]  11:45 PM
                             [**2114-4-2**]  07:12 AM
                             [**2114-4-3**]  03:56 AM
                             [**2114-4-4**]  03:18 AM
   WBC
   8.7
   5.4
   6.9
   6.5
   7.5
   8.5
   8.0
   Hct
   22
   30.3
   25.9
   30.2
   29.2
   30.4
   29.7
   31.8
   Plt
   [**Telephone/Fax (3) 1501**]90
   186
   193
   215
   Cr
   1.2
   1.0
   1.1
   1.0
   1.1
   1.0
   1.0
   TropT
   0.20
   0.16
   TCO2
   24
   24
   Glucose
   177
   84
   83
   78
   72
   70
   140
   Other labs: PT / PTT / INR:12.3/48.4/1.0, CK / CKMB /
   Troponin-T:61/5/0.16, ALT / AST:13/27, Alk Phos / T Bili:73/0.2, Lactic
   Acid:0.7 mmol/L, Albumin:2.6 g/dL, LDH:214 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   80 year old woman with severe AS and CAD who presents with hypoxemic
   and hypercarbic respiratory failure.   LLL infiltrate (slightly worse
   since admission with hydration) and it sounds like she had some
   respiratory symptoms over the last few days.  She is certainly at risk
   for CHF as well, and her extremities are [**Last Name (LF) **], [**First Name3 (LF) **] this may be part of
   the picture as well.
    1. Respiratory failure / ID issues - extubated without complication.
   Covered for nosocomial pneumonia with cefepime/vanco, now on
   vanco/ceft. Sputum positive for MRSA, unclear if colonized or cause of
   pna.  Hypercapnia may have been related to oxycontin. Will complete 7 d
   course of vanco/Ceph
    2. Hypotension - resolved, question of sepsis - likely LLL pneumonia.
   Alternatively was dry in setting of severe AS, now volume resuscitated.
   TTE repeated. Hx of RA, question of previous steroids.
    3. Bradycardia - Improved, enzymes (trop) trending down, no evidence
   for ACS.
   4. CAD - reportedly worked up for CABG + AVR but felt to be poor
   surgical candidate. Mrs [**Known lastname 1519**] confirms that she refused surgery and
   does not wish to change this.
   5. RA
 oxycontin held, will restart small dose, looks comfortable
   6. Acute renal failure - improved, likely was prerenal
   Stable for floor or discharge back to [**Hospital1 169**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2114-3-31**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes